US05552422
1-Phenyl-2-(4-(methylthio)phenyl)ethanone
To a cold (0° C.) solution of N-methoxy-N-methylbenzamide (409 mg, 2.27 mmol) in THF (22mL) was added a THF solution (5.0 mL, 0.5M) of 4-(methylthio)benzylmagnesium chloride (J.Org. Chem. 42, 1914, 1977). The mixture was stirred at 0 ° C. for 3 h. NH4OAc was added and the mixture was extracted with EtOAc. The EtOAc extracts were washed with brine, dried over MgSO4, filtered and concentrated to an oil. Chromatography of the oil on silica gel (eluted with 2.5 % EtOAc/toluene) gave 501 mg of the title compound.

reactant | N-methoxy-N-methylbenzamide | 2.27 mmol, 409 mg | CON(C(C1=CC=CC=C1)=O)C | C9H11NO2
reactant | 4-(methylthio)benzylmagnesium chloride | CSC1=CC=C(C[Mg]Cl)C=C1
solvent | THF | 22mL | C1CCOC1 | C4H8O
solvent | THF | 0.5M, 5.0 mL | C1CCOC1 | C4H8O
product | 1-Phenyl-2-(4-(methylthio)phenyl)ethanone | 501 mg | C1(=CC=CC=C1)C(CC1=CC=C(C=C1)SC)=O | C15H14OS
